US08389743B2
N-{2-fluoro-4-[1-fluoro-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-pyrrolidine hydrochloride
A 2-L 3-neck RB flask, equipped a magnetic stirring bar, thermometer, addition funnel and nitrogen gas inlet was charged with Example 8, N-{2-fluoro-4-[1-hydroxy-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-pyrrolidine (43.0 g, 0.124 mol) and 1 L of anhydrous DCM under nitrogen. The mixture was cooled to −75° C. with a dry ice/acetone bath, then Deoxo-Fluor (Aldrich, 33.0 g, 27.5 mL, 0.149 mol) was added dropwise. The mixture was warmed to 0° C. and stirred for 30 min at this temperature. Then the mixture was quenched with 350 mL of sat. Na2CO3, and extracted with DCM (3×300 mL). The extract was dried over Na2SO4 and evaporated. The resulting crude oil was purified by column (silica gel, ether 60%, hexane 30%, MeOH 5%, Et3N 5%, Rf=0.37 in ether 60%, hexane 30%, MeOH 5%, NH4OH 5%) to give 29.0 g (67%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.39 (t, J=7.64 Hz, 1H), 7.21 (d, J=7.92 Hz, 1H), 7.14 (d, J=10.9 Hz, 1H), 3.67 (s, 2H), 3.40-3.61 (m, 5H), 2.66-3.00 (m, 4H), 2.50-2.55 (m, 4H), 1.80-2.00 (m, 4H), 1.75-1.80 (m, 4H).

reactant | N-{2-fluoro-4-[1-hydroxy-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-pyrrolidine | 0.124 mol, 43.0 g | FC1=C(CN2CCCC2)C=CC(=C1)C1(CC(C1)C(=O)N1CCCC1)O | C20H27FN2O2
reactant | Deoxo-Fluor | 0.149 mol, 27.5 mL, 33.0 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | N-{2-fluoro-4-[1-fluoro-3-(pyrrolidin-1-ylcarbonyl)cyclobutyl]benzyl}-pyrrolidine hydrochloride | 29.0 g, 67% | Cl.FC1=C(CN2CCCC2)C=CC(=C1)C1(CC(C1)C(=O)N1CCCC1)F | InChI=1S/C20H26F2N2O.ClH/c21-18-11-17(6-5-15(18)14-23-7-1-2-8-23)20(22)12-16(13-20)19(25)24-9-3-4-10-24;/h5-6,11,16H,1-4,7-10,12-14H2;1H
